US07504410B2
4a) Methyl3-amino-5-[[5-bromo(prop-2-ynyloxy)pyrimidin 2yl]amino]benzoate
A mixture of 5-bromo-2-chloro-4-(prop-2-ynyloxy)pyrimidine (15 g), methyl 3,5-diaminobenzoate (45 g) and concentrated hydrochloric acid (15 ml) in methanol (600 ml) was stirred at 65° C. for 8 h. After concentration to half the volume water was added and the precipitate collected by filtration. The precipitate then was treated with sodium hydroxide solution (1 n) and dichloromethane. The organic phase then was washed with water and brine, dried (Na2SO4) and evaporated to dryness to give the title compound (13.8 g).

reactant | 5-bromo-2-chloro-4-(prop-2-ynyloxy)pyrimidine | 15 g | BrC=1C(=NC(=NC1)Cl)OCC#C | C7H4BrClN2O
reactant | methyl 3,5-diaminobenzoate | 45 g | NC=1C=C(C(=O)OC)C=C(C1)N | C8H10N2O2
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | methanol | 600 ml | CO | CH4O
product | Methyl3-amino-5-[[5-bromo(prop-2-ynyloxy)pyrimidin 2yl]amino]benzoate | 13.8 g | COC(C1=CC(=CC(=C1)NC1=NC=C(C(=N1)OCC#C)Br)N)=O | C15H13BrN4O3
